US06458521B1
N-(5-Nitro-2-methoxyphenyl)-2,2,5-trimethyl-b-oxo-1,3-dioxane-5-propanamide
2Methoxy-5-nitroaniline (63.06 g, 0.375 mol) and methyl 2,2,5-trimethyl-b-oxo-1,3-dioxane-5-propanoate (90.0 g, 0.391 mol) were dispersed in n-octane (500 mL) and m-xylene (100 mL) in a 2-liter three-necked flask. The mixture was heated at the boiling point while methanol was continuously removed by a very slow nitrogen sweep. After 2 hr of heating the solution was allowed to cool slowly with good stirring; the yellow-orange precipitate which formed was filtered and allowed to air dry. The crude precipitate was dissolved in ethyl ether and extracted with dilute hydrochloric acid, after which the ethereal solution was washed once with dilute sodium bicarbonate, once with water, the organic and aqueous layers separated, and the organic layer dried over magnesium sulfate. The mixture was filtered and the excess solvent removed in vacuo. The residue was recrystallized from ethyl alcohol, m.p. 113-5° C.; H-NMR was consistent. Elemental analysis calculated for C17H22N5O7: C, 55.73; H, 6.05; N, 7.65. Found: C, 55.64; H. 6.14; N, 7.53.

reactant | 2Methoxy-5-nitroaniline | 0.375 mol, 63.06 g | COC1=C(N)C=C(C=C1)[N+](=O)[O-] | C7H8N2O3
reactant | methyl 2,2,5-trimethyl-b-oxo-1,3-dioxane-5-propanoate | 0.391 mol, 90.0 g | CC1(OCC(CO1)(C(CC(=O)OC)=O)C)C | C11H18O5
reactant | m-xylene | 100 mL | C1(=CC(=CC=C1)C)C | C8H10
reactant | methanol | CO | CH4O
solvent | n-octane | 500 mL | CCCCCCCC | C8H18
product | N-(5-Nitro-2-methoxyphenyl)-2,2,5-trimethyl-b-oxo-1,3-dioxane-5-propanamide | [N+](=O)([O-])C=1C=CC(=C(C1)NC(CC(C1(COC(OC1)(C)C)C)=O)=O)OC | C17H22N2O7
